US06133253
113a. 6-Hydroxymethyl-3-((1-t-butoxycarbonyl-2-(S)-azetidinyl)methoxy)pyridine
A sample of (S)-1-t-butoxycarbonyl-2-azetidinemethanol (1.64 g, 8.18 mmol) and 1.05 g (6.29 mmol) of 6-acetyloxymethyl-3-hydroxypyridine, prepared as described by Deady and Dayhe, Aust. J. Chem., 2565:36 (1983), were reacted with triphenylphosphine (540 mg, 2.06 mmol) and DEAD (0.33 mL, 2.06 mmol) in TBF (25 mL) according to the procedure of Example 2a. The product was stirred in methanol (4 mL) containing KOH (450 mg) at room temperature for 4 hours, then neutralized and concentrated. The residue was purified by chromatography (silica gel; 1:1 ether: hexane and ethyl acetate) to give title compound (240 mg, 41% for two steps). MS (DCI/NH3) m/e: 295 (M+H)+. 1H NMR (CDCl3, 300 MHz) δ: 1.42 (s, 9H), 2.24-2.48 (m, 2H), 3.84-3.96 (m, 2H), 4.18 (dd, J=2.6, 11 Hz, 1H), 4.40 (m, 1H), 4.53 (m, 1H), 4.82 (s, 2H), 7.36 (d, J=8.5 Hz, 1H), 7.51 (m 1H), 8.31 (d, J=3.0 Hz, 1H).

reactant | (S)-1-t-butoxycarbonyl-2-azetidinemethanol | 8.18 mmol, 1.64 g | C(C)(C)(C)OC(=O)N1[C@@H](CC1)CO | C9H17NO3
reactant | 6-acetyloxymethyl-3-hydroxypyridine | 6.29 mmol, 1.05 g | C(C)(=O)OCC1=CC=C(C=N1)O | C8H9NO3
reactant | triphenylphosphine | 2.06 mmol, 540 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 2.06 mmol, 0.33 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | KOH | 450 mg | [OH-].[K+]
solvent | methanol | 4 mL | CO | CH4O
product | 6-Hydroxymethyl-3-((1-t-butoxycarbonyl-2-(S)-azetidinyl)methoxy)pyridine | 240 mg, 41% | OCC1=CC=C(C=N1)OC[C@H]1N(CC1)C(=O)OC(C)(C)C | C15H22N2O4
